US06399629B1
(B) 2-(4-Nitrobenzyloxycarbonylamino)ethanesulfonyl Chloride
Thionyl chloride (20 mL) was added to sodium 2-(4-nitrobenzyloxycarbonylamino)-ethanesulfonate (A, 1.25 g). After stirring at room temperature for 10 min, the mixture was refluxed for 3 hr and concentrated in vacuo. The residue was suspended in benzene and the mixture was filtered over diatomaceous earth. The filtrate was concentrated in vacuo to afford the title compound (0.1 g) as a white powder: 1H NMR (400 MHz, CDCl3) δ 3.82-3.97 (m, 4H), 5.23 (s, 2H), 5.43 (br s, 1H), 7.51 (d, J=8.8 Hz, 2H), and 8.23 (d, J=8.8 Hz, 2H).

reactant | sodium 2-(4-nitrobenzyloxycarbonylamino)-ethanesulfonate | [N+](=O)([O-])C1=CC=C(COC(=O)NCCS(=O)(=O)[O-])C=C1.[Na+]
reactant | Thionyl chloride | 20 mL | S(=O)(Cl)Cl | Cl2OS
product | 2-(4-Nitrobenzyloxycarbonylamino)ethanesulfonyl Chloride | 0.1 g | [N+](=O)([O-])C1=CC=C(COC(=O)NCCS(=O)(=O)Cl)C=C1 | C10H11ClN2O6S
